US07214694B2
Preparation 128: tert-butyl(3R)-6-cyclohexyl-3-(3-{[[2-(dimethylamino)ethyl](methyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate
Method as for preparation 5 using tert-butyl(3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate (preparation 177) (500 mg, 0.99 mmol) and N,N,N′-trimethylethylenediamine (200 mg, 1.98 mmol) as starting materials to afford the title compound as a colourless oil (241 mg).

reactant | tert-butyl(3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate | 0.99 mmol, 500 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)COS(=O)(=O)C1=CC=C(C=C1)C | C26H38N2O6S
reactant | N,N,N′-trimethylethylenediamine | 1.98 mmol, 200 mg | CN(CCNC)C | C5H14N2
product | tert-butyl(3R)-6-cyclohexyl-3-(3-{[[2-(dimethylamino)ethyl](methyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate | 241 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CN(C)CCN(C)C | C24H44N4O3
